US05387685
3-(3,4-Dihydro-6,7-dimethoxy-2(1H)-isoquinolinyl)-α-(3,4-dimethoxyphenyl)-α-[(4-methylphenyl)thio]benzenepropanenitrile
A mixture of 0.21 g of 3-(chloromethyl)-α-(3,4-dimethoxyphenyl)-α-[(4-methylphenyl)thio]benzene propane nitrile, 0.091 g of 6,7-dimethoxy-1,2,3,4tetrahydroisoquinoline and 0.3 g of anhydrous potassium carbonate in 2.0 mL of N,N-dimethylformamide is heated at 85° C. for 4 hours, cooled, poured into water and extracted with ethyl acetate. The ethyl acetate extract is washed with brine, dried and filtered. The filtrate is evaporated in vacuo to yield an oil. This oil is purified by flash chromatography with 1.5% methyl alcohol in chloroform to yield 0.18 g of the desired product as a yellow glassy solid.

reactant | 3-(chloromethyl)-α-(3,4-dimethoxyphenyl)-α-[(4-methylphenyl)thio]benzene propane nitrile | 0.21 g | ClCC=1C=C(C=CC1)CC(C#N)(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C25H24ClNO2S
reactant | 6,7-dimethoxy-1,2,3,4tetrahydroisoquinoline | 0.091 g | COC=1C=C2CCNCC2=CC1OC | C11H15NO2
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 2.0 mL | CN(C=O)C | C3H7NO
product | 3-(3,4-Dihydro-6,7-dimethoxy-2(1H)-isoquinolinyl)-α-(3,4-dimethoxyphenyl)-α-[(4-methylphenyl)thio]benzenepropanenitrile | 0.18 g | COC=1C=C2CCN(CC2=CC1OC)C=1C=C(C=CC1)CC(C#N)(SC1=CC=C(C=C1)C)C1=CC(=C(C=C1)OC)OC | C35H36N2O4S
